US07057062B2
HMDS (424 g, 2.6 mol) was added to a solution of 3-hydroxypropionitrile (355 g, 5.0 mol) and toluene sulfonic acid (TsOH, 0.5 g) at 60° C. over 0.5 h. The mixture was stirred at the same temperature for 2 h and evaporated at below 60° C. under reduced pressure to give crude 3-trimethylsilanyloxypropionitrile as a cloudy liquid (735 g).

reactant | HMDS | 2.6 mol, 424 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | 3-hydroxypropionitrile | 5.0 mol, 355 g | OCCC#N | C3H5NO
reactant | toluene sulfonic acid | 0.5 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | 3-trimethylsilanyloxypropionitrile | C[Si](OCCC#N)(C)C | C6H13NOSi
